US06121271
4-[4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diisopropyl-phenoxysulfonyl]-2-hydroxy-benzoic acid
Using 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diisopropyl-phenol (0.291 g, 0.623 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (0.768 g, 3.24 mmol) the title compound was prepared according to the procedure in Example 1, step 9. Purification on Dynamax C18 eluting with 100% CH3CN (0.1% TFA added) gave 0.09 g (22%) of the title compound as a white solid, mp >225° C.; 1H NMR (DMSO-d6) δ 1.09 (t, 12 H), 1.54 (s, 3 H), 2.45 (s, 3 H), 3.14-3.22 (m, 2 H), 7.27 (s, 2 H), 7.41-7.46 (m, 2 H), 7.50-7.53 (m, 2 H), 7.65-7.69 (m, 1 H), 8.09 (d, 1 H), 8.21-8.23 (m, 1 H). IR (KBr) 3400, 2950, 1700, 1375 and 1180 cm-1. mass spectrum (-ESI), m/z 665/667 (M-H). Anal. Calcd. for C33H31BrO6S2.1.7H2O: C, 56.76; H, 4.97 N, 0.00. Found: C, 56.73; H, 4.81 N, 0.12.

reactant | 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diisopropyl-phenol | 0.623 mmol, 0.291 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(C(=C2)C(C)C)O)C(C)C | C26H27BrOS
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 3.24 mmol, 0.768 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-[4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diisopropyl-phenoxysulfonyl]-2-hydroxy-benzoic acid | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(OS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O)C(=C2)C(C)C)C(C)C | C33H31BrO6S2
